US07071332B2
3-[5-(3-Diethylamino-propyl)-1H-indol-2-ylmethylene]-6-phenyl-1,3-dihydro-indol-2-one
A mixture of 6-phenyl-2-oxindole (41 mg, 0.19 mmol) 5-(3-diethylamino-propyl)-1H-indole-2-carbaldehyde (50 mg, 0.19 mmol) and piperidine(0.1 mL) in ethanol (1 mL) was heated in a sealed tube at 95° C. for 20 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 49 mg (56%) of the title compound as an orange crystalline solid.

reactant | 6-phenyl-2-oxindole | 0.19 mmol, 41 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(3-Diethylamino-propyl)-1H-indol-2-ylmethylene]-6-phenyl-1,3-dihydro-indol-2-one | 49 mg, 56% | C(C)N(CCCC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)CC | C30H31N3O
